US08071584B2
3-(1,1-Dioxidotetrahydro-2H-thiopyran-4-yl)-5-[5-(hexahydro-1H-azepin-1-ylmethyl)-3-thienyl]-1H-indole-7-carboxamide
To 5-bromo-3-(1,1-dioxidotetrahydro-2H-thiopyran-4-yl)-1H-indole-7-carboxamide (100 mg, 0.27 mmol) in dioxane and water (3 mL/1 mL) was added 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-2-thiophenecarbaldehyde (116 mg), Pd(PPH3)4 (30 mg) and K2CO3 (112 mg). The reaction mixture was heated to 150° C. for 900 seconds by microwave irradiation. The organic phase was separated, concentrated, and redissolved in DMSO (3 mL). The resulting solution was split to two. NaBH3CN (30 mg), ZnCl2 (30 mg) and hexahydro-1H-azepine (50 mg) was added. The mixture was heated to 100° C. for 30 minutes which was then purified by HPLC with TFA to afford the title compound (13 mg).

reactant | 5-bromo-3-(1,1-dioxidotetrahydro-2H-thiopyran-4-yl)-1H-indole-7-carboxamide | 0.27 mmol, 100 mg | BrC=1C=C2C(=CNC2=C(C1)C(=O)N)C1CCS(CC1)(=O)=O | C14H15BrN2O3S
reactant | 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-2-thiophenecarbaldehyde | 116 mg | CC1(OB(OC1(C)C)C=1C=C(SC1)C=O)C | C11H15BO3S
reactant | K2CO3 | 112 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | dioxane | O1CCOCC1 | C4H8O2
solvent | water | 3 mL | O | H2O
catalyst | Pd(PPH3)4 | 30 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.[Pd]
product | 3-(1,1-Dioxidotetrahydro-2H-thiopyran-4-yl)-5-[5-(hexahydro-1H-azepin-1-ylmethyl)-3-thienyl]-1H-indole-7-carboxamide | 13 mg | O=S1(CCC(CC1)C1=CNC2=C(C=C(C=C12)C1=CSC(=C1)CN1CCCCCC1)C(=O)N)=O | C25H31N3O3S2
